US04383945
A solution of (3R,4R)-4-(2,2-dimethoxyethyl)-3-phthalimido-2-oxoazetidine (65 mg) in 80% aqueous acetic acid (1.5 ml) was heated at 64° for two hours. After evaporation of the solvent in vacuo, the residue was crystallized from a mixture of diethyl ether and ethyl acetate to afford (3R,4R)-4-(2-oxoethyl)-3-phthalimido-2-oxoazetidine (42 mg).

reactant | (3R,4R)-4-(2,2-dimethoxyethyl)-3-phthalimido-2-oxoazetidine | 65 mg | COC(C[C@@H]1[C@H](C(N1)=O)N1C(C=2C(C1=O)=CC=CC2)=O)OC | C15H16N2O5
solvent | acetic acid | 1.5 ml | C(C)(=O)O | C2H4O2
product | (3R,4R)-4-(2-oxoethyl)-3-phthalimido-2-oxoazetidine | 42 mg | O=CC[C@@H]1[C@H](C(N1)=O)N1C(C=2C(C1=O)=CC=CC2)=O | C13H10N2O4
